US04242507
2-Methoxy-4-amino-5-chlorobenzoic acid (1.0 g) and 1-methanesulfoyloxy-1,2,3-benzotriazole (1.07 g) are suspended into chloroform (15 ml) and therto is added dropwise triethylamine (0.7 ml) with stirring under ice-cooling to give a clear solution. To the solution is added 2-(diethylamino)ethylamine (0.6 g) at room temperature and the mixture is allowed to stand for 18 hours. The solvent is then distilled off and thereto are added water and 1 N aqueous sodium hydroxide. The resulting crystals are separated by filtration, washed with water and then dried to give N-(2-diethylaminoethyl)-2-methoxy-4-amino-5-chlorobenzamide (0.9 g), melting point: 145°-146° C. The product is identified with an authentic sample by infrared spectrum.

reactant | 2-Methoxy-4-amino-5-chlorobenzoic acid | 1.0 g | COC1=C(C(=O)O)C=C(C(=C1)N)Cl | C8H8ClNO3
reactant | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
reactant | 2-(diethylamino)ethylamine | 0.6 g | C(C)N(CCN)CC | C6H16N2
solvent | triethylamine | 0.7 ml | C(C)N(CC)CC | C6H15N
product | N-(2-diethylaminoethyl)-2-methoxy-4-amino-5-chlorobenzamide | 0.9 g | C(C)N(CCNC(C1=C(C=C(C(=C1)Cl)N)OC)=O)CC | C14H22ClN3O2
